US05306695
Example D: 2-nitro-4-difluoromethoxybenzoic acid
72.1 g of 2-nitro-4-difluoromethoxytoluene and 300 ml of pyridine are refluxed. A solution of 336 g of potassium permanganate in 500 ml of water is then added in portions. The batch is subsequently held for a further 7 hours at 80° C. When cold, 500 ml of 2N sodium hydroxide solution are added, the mixture is extracted with ether, and the aqueous phase is acidified with concentrated hydrochloric acid. During this process, the product separates out as an oil which crystallizes on prolonged stirring. After filtration, washing with dilute hydrochloric acid and drying, 53.6 g of desired product are obtained in the form of white crystals (m.p. 136°-138° C.).

reactant | 2-nitro-4-difluoromethoxytoluene | 72.1 g | [N+](=O)([O-])C1=C(C=CC(=C1)OC(F)F)C | C8H7F2NO3
reactant | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
reactant | potassium permanganate | 336 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sodium hydroxide | 2N, 500 ml | [OH-].[Na+]
reactant | water | 500 ml | O | H2O
product | 2-nitro-4-difluoromethoxybenzoic acid | 53.6 g | [N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)OC(F)F | C8H5F2NO5
